US05026856
7-(4-amino-2-isoindolinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
136 mg of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 100 mg of 4-aminoisoindoline, 114 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 80 mg of the target compound.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 136 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 4-aminoisoindoline | 100 mg | NC1=C2CNCC2=CC=C1 | C8H10N2
reactant | DBU | 114 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-amino-2-isoindolinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 80 mg | NC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C20H17F2N3O3
